US05399487
223 g (1 mol) of 6-amino-1-naphthalenesulfonic acid and 148 g (1 mol) of phthalic anhydride are boiled for 0.5 h in 1 liter of pyridine. After boiling, the reaction mixture is left at room temperature for 16 h. The precipitated product is filtered and washed with pyridine and water, and then recrystallized from boiling water. Yield 298 g (69%); mp 234°-237° C.; Anal. Calcd. for C23H16N2SO5 :C 63.88, H 3.73, N 6.48, S 7.42; Found:C 63.74, H 3.81, N 6.52, S 6.99. When the 6-phthalimido-1-naphthalenesulfonic acid pyridinium salt was synthesized starting from 6-amino-1-naphthalenesulfonic acid sodium salt or triethylammonium salt, the calculated yields were 63% and 58% respectively.

reactant | 6-amino-1-naphthalenesulfonic acid | 1 mol, 223 g | NC=1C=C2C=CC=C(C2=CC1)S(=O)(=O)O | C10H9NO3S
reactant | phthalic anhydride | 1 mol, 148 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 6-amino-1-naphthalenesulfonic acid sodium salt | [Na+].NC=1C=C2C=CC=C(C2=CC1)S(=O)(=O)[O-]
reactant | triethylammonium | C(C)[NH+](CC)CC
solvent | pyridine | 1 liter | N1=CC=CC=C1 | C5H5N
product | 6-phthalimido-1-naphthalenesulfonic acid pyridinium salt | [NH+]1=CC=CC=C1.C1(C=2C(C(N1C=1C=C3C=CC=C(C3=CC1)S(=O)(=O)[O-])=O)=CC=CC2)=O | InChI=1S/C18H11NO5S.C5H5N/c20-17-14-5-1-2-6-15(14)18(21)19(17)12-8-9-13-11(10-12)4-3-7-16(13)25(22,23)24;1-2-4-6-5-3-1/h1-10H,(H,22,23,24);1-5H
